US08106077B2
To solution of [3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol (0.100 g, 1 eq) and 2-chloro-4-fluorobenzaldehyde (0.11 g, 2 eq) in dimethylformamide (3 mL) is added cesium carbonate (0.23 g, 2 eq). The reaction is heated to 100° C. overnight. The reaction is cooled to room temperature and water is added. The mixture is extracted with ethyl acetate and the organic layers are washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified via flash chromatography eluting with 0-10% ethyl acetate:toluene to give 0.101 g of 2-Chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-benzaldehyde. ES/MS m/e 426.1 (M+1).

reactant | [3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-yl]-methanol | 0.100 g, 1 eq | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1CO)C(C)C | C12H13Cl2N3O
reactant | 2-chloro-4-fluorobenzaldehyde | 0.11 g, 2 eq | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | cesium carbonate | 0.23 g, 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-benzaldehyde | 0.101 g | ClC1=C(C=O)C=CC(=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl | C19H16Cl3N3O2
